US07449456B2
2-[1-(4-Nitrophenyl)piperidin-4-yl]ethanol and methane sulfonyl chloride were allowed to undergo the reaction in THF in the presence of triethylamine. The resulting compound and potassium phthalimide were allowed to undergo the reaction under heating in 1-methyl-2-pyrrolidone in the presence of potassium iodide. The resulting compound was allowed to react with hydrazine monohydrate in chloroform-methanol. The resulting compound and di-tert-butyl dicarbonate were allowed to undergo the reaction under heating in THF. The resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain tert-butyl {2-[1-(4-aminophenyl)-piperidin-4-yl]ethyl}-carbamate. FN: 318.

reactant | 2-[1-(4-Nitrophenyl)piperidin-4-yl]ethanol | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)CCO | C13H18N2O3
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium iodide | [I-].[K+]
reactant | hydrazine monohydrate | O.NN
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | tert-butyl {2-[1-(4-aminophenyl)-piperidin-4-yl]ethyl}-carbamate | NC1=CC=C(C=C1)N1CCC(CC1)CCNC(OC(C)(C)C)=O | C18H29N3O2
